* source HW6_2
R_R7         N15025 N15037  50 TC=0,0 
V_V1         N15189 0  
+PULSE 0 5 5n 1p 1p 1s 2s
R_R9         N14993 N15005  50 TC=0,0 
C_C3         0 N15045  1p  TC=0,0 
R_R5         N15057 N15069  50 TC=0,0 
C_C7         0 N15037  1p  TC=0,0 
C_C9         0 N15005  1p  TC=0,0 
C_C5         0 N15069  1p  TC=0,0 
R_R2         N14957 N14969  50 TC=0,0 
C_C2         0 N14969  1p  TC=0,0 
C_C8         0 N14993  1p  TC=0,0 
C_C6         0 N15025  1p  TC=0,0 
R_R6         N14957 N15025  50 TC=0,0 
C_C4         0 N15057  1p  TC=0,0 
R_R3         N14969 N15045  50 TC=0,0 
R_R8         N14969 N14993  50 TC=0,0 
R_R4         N15045 N15057  50 TC=0,0 
C_C1         0 N14957  1p  TC=0,0 
R_R1         N15189 N14957  50 TC=0,0 
R_R10         N17896 N17983  200 TC=0,0 
C_C10         0 N17983  0.25p  TC=0,0 
R_R11         N17983 N17998  200 TC=0,0 
C_C11         0 N17998  0.25p  TC=0,0 
C_C12         0 N18013  0.25p  TC=0,0 
R_R12         N17998 N18013  200 TC=0,0 
C_C13         0 N18028  0.25p  TC=0,0 
R_R13         N18013 N18028  200 TC=0,0 
R_R14         N18028 N18041  200 TC=0,0 
C_C14         0 N18041  0.25p  TC=0,0 
R_R19         N18132 N18145  200 TC=0,0 
C_C16         0 N18102  0.25p  TC=0,0 
C_C19         0 N18145  0.25p  TC=0,0 
C_C18         0 N18132  0.25p  TC=0,0 
C_C15         0 N18087  0.25p  TC=0,0 
R_R15         N18041 N18087  200 TC=0,0 
R_R16         N18087 N18102  200 TC=0,0 
R_R18         N18117 N18132  200 TC=0,0 
R_R17         N18102 N18117  200 TC=0,0 
C_C17         0 N18117  0.25p  TC=0,0 
R_R24         N18197 N18210  200 TC=0,0 
R_R21         N18152 N18167  200 TC=0,0 
C_C22         0 N18182  0.25p  TC=0,0 
R_R20         N17896 N18152  200 TC=0,0 
R_R23         N18182 N18197  200 TC=0,0 
C_C20         0 N18152  0.25p  TC=0,0 
C_C21         0 N18167  0.25p  TC=0,0 
C_C23         0 N18197  0.25p  TC=0,0 
C_C24         0 N18210  0.25p  TC=0,0 
R_R22         N18167 N18182  200 TC=0,0 
C_C27         0 N18274  0.25p  TC=0,0 
C_C26         0 N18259  0.25p  TC=0,0 
C_C25         0 N18244  0.25p  TC=0,0 
C_C29         0 N18302  0.25p  TC=0,0 
R_R28         N18274 N18289  200 TC=0,0 
R_R27         N18259 N18274  200 TC=0,0 
R_R29         N18289 N18302  200 TC=0,0 
C_C28         0 N18289  0.25p  TC=0,0 
R_R26         N18244 N18259  200 TC=0,0 
R_R25         N18210 N18244  200 TC=0,0 
C_C30         0 N17918  0.25p  TC=0,0 
C_C34         0 N17976  0.25p  TC=0,0 
R_R31         N17918 N17933  200 TC=0,0 
C_C33         0 N17963  0.25p  TC=0,0 
R_R33         N17948 N17963  200 TC=0,0 
C_C32         0 N17948  0.25p  TC=0,0 
R_R32         N17933 N17948  200 TC=0,0 
R_R34         N17963 N17976  200 TC=0,0 
C_C31         0 N17933  0.25p  TC=0,0 
R_R30         N17896 N17918  200 TC=0,0 
C_C38         0 N18354  0.25p  TC=0,0 
R_R36         N18309 N18324  200 TC=0,0 
C_C37         0 N18339  0.25p  TC=0,0 
R_R35         N18302 N18309  200 TC=0,0 
R_R37         N18324 N18339  200 TC=0,0 
C_C39         0 N18369  0.25p  TC=0,0 
R_R38         N18339 N18354  200 TC=0,0 
C_C35         0 N18309  0.25p  TC=0,0 
R_R39         N18354 N18369  200 TC=0,0 
C_C36         0 N18324  0.25p  TC=0,0 
V_V2         N17896 0  
+PULSE 0 5 5n 1p 1p 1s 2s
